US06723744B2
Step I: Preparation of 5-[3-(Cyclobutyl-methyl-carbamoyl)-4-hydroxy-phenoxy]-4,6-dimethyl-1H-indole-2-carboxylic acid
To a solution of 5-[3-(Cyclobutyl-methyl-carbamoyl)-4-hydroxy-phenoxy]-4,6-dimethyl-1H-indole-2-carboxylic acid ethyl ester (102 mg, 0.23 mmol) in methanol (2 mL) at room temperature was added 3N potassium hydroxide (0.44 mL) and the mixture was stirred at room temperature for 7 hours. The reaction mixture was diluted with water (10 mL) and washed with EtOAc/Et2O (1/1, 3 times 5 mL). The aqueous solution was acidified with hydrochloric acid and then extracted with ethyl acetate (3 times 5 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated to afford the title compound (81 mg) as a yellow solid. 1H NMR (400 MHz, CD3OD) δ11.08 (s, 1H), 7.15-7.14 (d, 2H), 6.76 (s+m, 2H), 6.33 (br s, 1H), 4.25-4.16 (m, 1H), 2.90 (s, 3H), 2.25 (s, 3H), 2.22-2.19 (m, 2H), 2.15 (s, 3H), 1.95-1.85 (m, 2H), 1.60-1.48 (m, 2H). MS (APCI+) Calc: 408.2, Found: 409.2 (M+1).

reactant | 5-[3-(Cyclobutyl-methyl-carbamoyl)-4-hydroxy-phenoxy]-4,6-dimethyl-1H-indole-2-carboxylic acid ethyl ester | 0.23 mmol, 102 mg | C(C)OC(=O)C=1NC2=CC(=C(C(=C2C1)C)OC1=CC(=C(C=C1)O)C(N(C)C1CCC1)=O)C | C25H28N2O5
reactant | potassium hydroxide | 3N, 0.44 mL | [OH-].[K+]
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 5-[3-(Cyclobutyl-methyl-carbamoyl)-4-hydroxy-phenoxy]-4,6-dimethyl-1H-indole-2-carboxylic acid | 81 mg | C1(CCC1)N(C(=O)C=1C=C(OC=2C(=C3C=C(NC3=CC2C)C(=O)O)C)C=CC1O)C | C23H24N2O5
